US07655666B2
N-(2,4-Dioxo-6-pyridazin-4-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide
A solution containing 2-amino-5-pyridazin-4-yl-4-trifluoromethyl-benzoic acid methyl ester (65.5 mg, 0.22 mmol) and 4-chlorophenyl chloroformate (34 μL, 0.24 mmol) in dioxane (3 mL) was heated at 80° C. for 1.5 h. After allowing the reaction mixture to cool down to r.t., CH3SO2NHNH2 (48.5 mg, 0.44 mmol) and i-Pr2NEt (38.5 μL, 0.22 mmol) were added. The mixture was heated to 80° C. for 1 h and, after cooling to r.t., the solvent was removed in vacuo. The residue was dissolved in DCM and the product was precipitated by addition of Et2O. Filtration and drying provided the title product (34.4 mg, 39%) as a white solid. API-ES: m/z 402 [M+H]+, rt 2.02 min.

reactant | 2-amino-5-pyridazin-4-yl-4-trifluoromethyl-benzoic acid methyl ester | 0.22 mmol, 65.5 mg | COC(C1=C(C=C(C(=C1)C1=CN=NC=C1)C(F)(F)F)N)=O | C13H10F3N3O2
reactant | 4-chlorophenyl chloroformate | 0.24 mmol, 34 μL | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | CH3SO2NHNH2 | 0.44 mmol, 48.5 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 0.22 mmol, 38.5 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Dioxo-6-pyridazin-4-yl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 34.4 mg, 39% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C1=CN=NC=C1)C(F)(F)F | C14H10F3N5O4S
